US09315475B2
Step 8: tert-Butyl (2R,5S)-2-[2-(3-{[N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanyl]amino}-5-fluoropyridin-4-yl)ethyl]-5-({[(2,2,2-trifluoroethyl)carbamoyl]oxy}methyl)morpholine-4-carboxylate
tert-Butyl (2R,5R)-2-[2-(3-{[N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanyl]amino}-5-fluoropyridin-4-yl)ethyl]-5-(hydroxymethyl)morpholine-4-carboxylate (1.50 g, 2.10 mmol) and CDI (0.425 g, 2.62 mmol) were heated at 60° C. in Pyridine (21 mL) for 30 min. 2,2,2-Trifluoroethylamine (3.29 mL, 42.0 mmol) was added and the reaction heated at 60° C. for 24 hours, A further aliquot of 2,2,2-Trifluoroethylamine (1.65 mL, 21.0 mmol) was added and the reaction heated at 60° C. for a further 24 hours. The reaction was quenched with saturated aqueous KH2PO4 then brine and the mixture was extracted with ethyl acetate (×3). The combined organic fractions were dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. Purification on silica gel (220 g) eluting with a gradient of 0-100% EtOAc/hexanes afforded the title compound (1.29 g, 1.54 mmol, 73% yield) as a white solid, MS (ESI): m/z=840.46 (MH+); 100% pure by LCMS.

reactant | tert-Butyl (2R,5R)-2-[2-(3-{[N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanyl]amino}-5-fluoropyridin-4-yl)ethyl]-5-(hydroxymethyl)morpholine-4-carboxylate | 2.10 mmol, 1.50 g | C(C)(C)(C)OC(=O)N[C@@H](C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(=O)NC=1C=NC=C(C1CC[C@@H]1CN([C@@H](CO1)CO)C(=O)OC(C)(C)C)F | C37H45F3N4O7
reactant | CDI | 2.62 mmol, 0.425 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2,2,2-Trifluoroethylamine | 42.0 mmol, 3.29 mL | FC(CN)(F)F | C2H4F3N
reactant | 2,2,2-Trifluoroethylamine | 21.0 mmol, 1.65 mL | FC(CN)(F)F | C2H4F3N
solvent | Pyridine | 21 mL | N1=CC=CC=C1 | C5H5N
product | tert-Butyl (2R,5S)-2-[2-(3-{[N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanyl]amino}-5-fluoropyridin-4-yl)ethyl]-5-({[(2,2,2-trifluoroethyl)carbamoyl]oxy}methyl)morpholine-4-carboxylate | 1.54 mmol, 1.29 g, 73% yield | C(C)(C)(C)OC(=O)N[C@@H](C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(=O)NC=1C=NC=C(C1CC[C@@H]1CN([C@@H](CO1)COC(NCC(F)(F)F)=O)C(=O)OC(C)(C)C)F | C40H47F6N5O8
